data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_459049_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])([N:4]([H:8])[H:9])[N:5]([H:10])[H:11]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])[C:3]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[C:7]1([H:17])[H:18],65.33718250000973
MR_135871_1,[C:1]([C:3](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])/[C:6](=[N:8]\[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:6]([H:14])[N:8]([O:7][H:9])[C:2]1([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([H:15])([H:16])[H:17],42.85950500001064
MR_437689_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:5]12[N:3]([H:10])[N:8]1[C:4]([O:7][H:9])=[C:6]2[H:11])([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([c:5]1[n:3]([H:10])[n:8][c:4]([O:7][H:9])[c:6]1[H:11])([H:12])[H:13],15.605925000013343
MR_35385_1,[C:1]([C:4]([N:3](/[N:6]=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:9])[H:8])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:4]([C:5]([C:2]([H:13])([H:14])[H:15])(/[N:6]=[N:3]\[H:8])[H:9])=[O:7])([H:10])([H:11])[H:12],71.74332999995826
MR_244439_1,[C@@:1]([N:4]([C:2]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])([N:7]([H:13])[H:14])(/[C:9](=[C:5](\[C:3]([H:21])([H:22])[H:23])[N:8]([H:15])[H:16])[H:17])[H:10]>>[C:1](\[N:7]([H:13])[H:14])(=[C:9](\[C@@:5]([C:3]([H:21])([H:22])[H:23])([N:4]([C:2]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])[N:8]([H:15])[H:16])[H:17])[H:10],59.77564999999757
MR_48736_0,[N:1]1([N:4]([H:9])[H:10])[C:2]2([N:5]([H:11])[H:12])[C:3]([N:6]([H:13])[H:14])=[N:8][C:7]12[H:15]>>[n:1]1([N:4]([H:9])[H:10])[c:2]([N:5]([H:11])[H:12])[c:3]([N:6]([H:13])[H:14])[n:8][c:7]1[H:15],24.43171250002365
MR_332248_0,[C:1]1([H:13])([H:14])[N:3]([H:12])[N:2]([O:6][H:9])[C:4]([O:7][H:10])=[C:5]1[O:8][H:11]>>[C:1]1([H:13])([H:14])[N:3]([H:12])[C@@:5]1(/[C:4](=[N:2]/[O:6][H:9])[O:7][H:10])[O:8][H:11],40.54340250000848
MR_563217_1,[C:1](/[C:3](=[C:2](/[N:4]([H:10])[H:11])[O:6][H:8])[N:5]([H:12])[H:13])([O:7][H:9])([H:14])[H:15]>>[C:1](=[C:3](/[C:2]([N:4]([H:10])[H:11])([O:6][H:8])[H:15])[N:5]([H:12])[H:13])(\[O:7][H:9])[H:14],73.24368249998685
MR_252050_1,[C:1](/[C:3](=[C:5](/[O:8][H:9])[H:10])[O:7][C:4]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([C:5](=[O:8])[H:10])[O:7][H:9])([H:11])([H:12])[H:13],57.78647500002606
MR_170473_1,[C:1]([n:2]1[c:3]([N:5]([H:10])[H:11])[c:4]([O:7][H:9])[c:6]([H:12])[n:8]1)([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:3](/[C:4]1([O:7][H:9])[C:6]([H:12])=[N:8]1)[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],68.7068574999914
MR_112683_2,[C@@:1]12([H:9])[C:2]([H:10])([H:11])[C@:5]([C:3]([H:13])([H:14])[H:15])([H:12])[C:4]1([O:7][H:8])[O:6]2>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[C:2]([H:10])([H:11])[C:5]([H:12])=[C:4]([O:7][H:8])[O:6]1,58.72333250001489
MR_145543_1,[C:1]([C:4]([N:3](/[C:5]([N:6]([H:10])[H:11])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C:7]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[N:3]/[H:9])[N:6]([H:10])[H:11])[H:12])=[O:8])([H:13])([H:14])[H:15],49.52292749995166
MR_281272_0,[C:1]1([N:7]([H:11])[H:12])([C:8](=[O:9])[H:13])[C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:3]1([C:6]([H:20])([H:21])[H:22])[H:10]>>[C:1](\[C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:8](=[O:9])[H:13])(=[C:3](/[C:6]([H:20])([H:21])[H:22])[H:10])[N:7]([H:11])[H:12],51.19647000000669
MR_142798_1,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[C:6](=[O:7])[H:11])([N:5]([H:9])[H:10])[H:8]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[N:5]([H:9])[H:10])([C:6](=[O:7])[H:11])[H:8],60.126422499968015
MR_511952_0,[C@:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[O:7][N:6]([H:10])[H:11])([O:8][C:2]([H:12])([H:13])[H:14])[H:9]>>[C@@:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[O:8][C:2]([H:12])([H:13])[H:14])([O:7][N:6]([H:10])[H:11])[H:9],67.12618499998726
MR_106913_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([O:5][H:8])=[O:6])=[O:7])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][H:8])=[O:7])=[O:6])([H:9])[H:10],68.3316125000114
MR_90506_0,[C:1](\[C:2]([N:5]([C:6]([O:7][C:3]([H:14])([H:15])[H:16])=[O:8])[H:10])([H:12])[H:13])(=[N:4]/[H:9])[H:11]>>[C:1]1([O:7][C:3]([H:14])([H:15])[H:16])([H:11])[C:2]([H:12])([H:13])[N:5]([H:10])[C:6](=[O:8])[N:4]1[H:9],57.3679325000127
MR_47580_1,[N:1](/[C:3](=[C:5]([C:4](=[C:2](/[O:6][H:7])[H:10])/[H:12])\[H:13])[H:11])([H:8])[H:9]>>[N:1]([C:3]1([H:11])[C:2]([O:6][H:7])([H:10])[C:4]([H:12])=[C:5]1[H:13])([H:8])[H:9],36.21365250002526
MR_211761_2,[C:1](\[C:3]([N:5]([C:6]([C:2]([O:8][H:10])([H:15])[H:16])([C:4]([H:19])([H:20])[H:21])[O:9][H:14])[H:11])([H:17])[H:18])(=[N:7]/[H:13])[H:12]>>[C:1]([C:2]([O:8][H:10])([H:15])[H:16])([C:3]([N:5]([C:6]([C:4]([H:19])([H:20])[H:21])=[O:9])[H:11])([H:17])[H:18])([N:7]([H:13])[H:14])[H:12],55.48794250001521
